US08049006B2
1-(3-methane sulfonylphenyl)propylamine Hydrochloride (Compound S112)
To 1-(3-methane sulfonylphenyl)propan-1-one (188 g), ethanol (4.7 ml), sodium acetate (1.09 g), and hydroxylamine hydrochloride (0.68 g) were added and the mixture was stirred at 90° C. for 3 hours. Ethyl acetate and water were added to the reaction solution, the mixture was separated, then the organic layer was successively washed with saturated saline, dried over with anhydrous sodium sulfate, then concentrated. The obtained 1-(3-methane sulfonylphenyl)propan-1-one oxime was used instead of the starting material compound 1-(4-aminophenyl)propan-1-on oxime of Reference Example 109 for the similar procedure as with Reference Example 109 to obtain the title compound.

reactant | 1-(3-methane sulfonylphenyl)propan-1-one | 188 g | CS(=O)(=O)C=1C=C(C=CC1)C(CC)=O | C10H12O3S
reactant | ethanol | 4.7 ml | C(C)O | C2H6O
reactant | sodium acetate | 1.09 g | C(C)(=O)[O-].[Na+]
reactant | hydroxylamine hydrochloride | 0.68 g | Cl.NO
solvent | water | O | H2O
solvent | Ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 1-(3-methane sulfonylphenyl)propylamine Hydrochloride | Cl.CS(=O)(=O)C=1C=C(C=CC1)C(CC)N | InChI=1S/C10H15NO2S.ClH/c1-3-10(11)8-5-4-6-9(7-8)14(2,12)13;/h4-7,10H,3,11H2,1-2H3;1H
